US06251917B1
a) Methyl 2-(2-naphthylmethyloxy)benzoate
3.9 g (35 mmol) of potassium tert-butoxide were added a little at a time to 5 g (33 mmol) of methyl salicylate in 200 ml of dimethylformamide). After about 15 min, 7.3 g (33 mmol) of 2-(bromomethyl)naphthalene were added and the reaction mixture was heated to 100° C. for about 3 h. The reaction mixture was then poured into ice-water and the product was extracted with ethyl acetate. The organic phase was dried and concentrated under reduced pressure. 9.15 g (95%) of the product were obtained.

reactant | potassium tert-butoxide | 35 mmol, 3.9 g | CC(C)([O-])C.[K+]
reactant | methyl salicylate | 33 mmol, 5 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | 2-(bromomethyl)naphthalene | 33 mmol, 7.3 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | Methyl 2-(2-naphthylmethyloxy)benzoate | 9.15 g, 95% | C1=C(C=CC2=CC=CC=C12)COC1=C(C(=O)OC)C=CC=C1 | C19H16O3
